US05808062
4-Hydroxy-6-phenyl-3-[(phenylthio)methyl]-2H-pyran-2-one:
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), paraformaldehyde (0.175 g, 5.80 mmol), thiophenol (1.40 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. dec. 211° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.98 (s, 2 H), 6.73 (s, 1 H), 7.17 (m, 1 H), 7.30 (m, 2 H), 7.37 (m, 2 H), 7.54 (m, 3 H), 7.77 (m, 2 H), 12.05 (bs, 1 H).

reactant | 4-hydroxy-6-phenyl-2H-pyran-2-one | 5.31 mmol, 1.00 g | OC1=CC(OC(=C1)C1=CC=CC=C1)=O | C11H8O3
reactant | paraformaldehyde | 5.80 mmol, 0.175 g | C=O | CH2O
reactant | thiophenol | 13.8 mmol, 1.40 mL | C1(=CC=CC=C1)S | C6H6S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Hydroxy-6-phenyl-3-[(phenylthio)methyl]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)CSC1=CC=CC=C1 | C18H14O3S
